US07723369B2
4-[2-(4-Bromo-benzyl)-1H-imidazol-4-yl]-benzoic acid methyl ester (12.3 g, 33 mmol) was treated as described in general procedure B using 1-fluoro-4-nitrobenzene to give 4-[2-(4-bromo-benzyl)-1-(4-Nitro-phenyl)-1H-imidazol-4-yl]-benzoicacid methyl ester.

reactant | 4-[2-(4-Bromo-benzyl)-1H-imidazol-4-yl]-benzoic acid methyl ester | 33 mmol, 12.3 g | COC(C1=CC=C(C=C1)C=1N=C(NC1)CC1=CC=C(C=C1)Br)=O | C18H15BrN2O2
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 4-[2-(4-bromo-benzyl)-1-(4-Nitro-phenyl)-1H-imidazol-4-yl]-benzoicacid methyl ester | COC(C1=CC=C(C=C1)C=1N=C(N(C1)C1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C=C1)Br)=O | C24H18BrN3O4
